US04394515
Methyl-10,11-dihydro-11-hydroxydibenzo[b,f]thiepin-3-carboxylate
13.5 G. 10,11-dihydro-11-hydroxydibenzo[b,f]thiepin-3-carboxylic acid is suspended in ether and excess diazomethane is added in portions. A clear solution results which is filtered from small particles in suspension and the filtrate evaporated to dryness to a yellow oil weighing 14.2 g.

reactant | 10,11-dihydro-11-hydroxydibenzo[b,f]thiepin-3-carboxylic acid | OC1C2=C(SC3=C(C1)C=CC=C3)C=C(C=C2)C(=O)O | C15H12O3S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | CCOCC | C4H10O
product | Methyl-10,11-dihydro-11-hydroxydibenzo[b,f]thiepin-3-carboxylate | COC(=O)C=1C=CC2=C(SC3=C(CC2O)C=CC=C3)C1 | C16H14O3S
